US04505923
6-(3-Methoxy-2-hydroxypropoxy)benzothiazole-2-sulfonamide
A solution of 6-(2,3-epoxypropoxy)benzothiazole-2-sulfonamide (2.15 gm, 7.5 mmol) in methanol (60 mL) containing five drops of concentrated sulfonic acid was stirred at room temperature, monitoring reaction progress by TLC until complete (3 hours). The reaction mixture was poured into ice water and the crude product extracted into ethyl acetate which was dried (Na2SO4) and evaporated. The residue was dissolved in a minimum amount of acetonitrile and diluted with chloroform. Upon standing overnight product crystallized (1.8 gm). After several recrystallizations from acetonitrile/chloroform pure product was obtained (1.2 gm), m.p. 153°-155° C.

reactant | 6-(2,3-epoxypropoxy)benzothiazole-2-sulfonamide | 7.5 mmol, 2.15 gm | O1C(COC2=CC3=C(N=C(S3)S(=O)(=O)N)C=C2)C1 | C10H10N2O4S2
reactant | methanol | 60 mL | CO | CH4O
product | 6-(3-Methoxy-2-hydroxypropoxy)benzothiazole-2-sulfonamide | COCC(COC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1)O | C11H14N2O5S2
